US06313122B1
B. 2-[(4-tert-Butylbenzoyl)amino]-N-phenylbenzamide
To a stirred solution of 2-(4-tert-butylphenyl)-4H-3,1-benzoxazin-4-one (1.0 g, 3.6 mmol) in toluene (15 mL) was added aniline (0.33 g, 3.6 mmol). After refluxing for 8 h, the solution was allowed to cool, diethyl ether was added, and the precipitate was filtered and dried In vacuo to give 120 mg (9%) of the title compound as an off-white solid.

reactant | 2-(4-tert-butylphenyl)-4H-3,1-benzoxazin-4-one | 3.6 mmol, 1.0 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | C18H17NO2
reactant | aniline | 3.6 mmol, 0.33 g | NC1=CC=CC=C1 | C6H7N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(4-tert-Butylbenzoyl)amino]-N-phenylbenzamide | 120 mg, 9% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=CC=C3)C=CC=C2)C=C1 | C24H24N2O2
